US08207164B2
To a solution of ((2R,5R)-5-{5-[(5-cyano-3-methyl-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester in CH2Cl2 (0.3 ml) was added TFA (0.6 ml) and the reaction mixture was kept at 25° C. for 2 h. The reaction was added to cold 10% aqueous K2CO3 solution and the product extracted with EtOAc. Combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to provide 5-cyano-3-methyl-pyridine-2-carboxylic acid [3-((3R,6R)-5-amino-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-amide as a colorless foam. The title compound was converted into its hydrochloride salt by dissolving the free base in CH2Cl2, adding 1 eq of 2N HCl in Et2O, evaporation to dryness, followed by crystallization from CH2Cl2-Et2O to provide the title compound as a white solid: HPLC RtH5=0.957 min; ESIMS: 450 [(M+H)+]; 1H NMR (600 MHz, DMSO-d6): 11.0 (s, 1H), 9.60 (d, 2H), 9.04 (s, 1H), 8.41 (s, 1H), 7.96 (m, 1H), 7.83 (dd, 1H), 7.33 (dd, 1H), 4.37 (d, 1H), 4.11 (d, 1H), 2.56 (s, 3H), 1.73 (s, 3H), 1.70 (s, 3H).

reactant | ((2R,5R)-5-{5-[(5-cyano-3-methyl-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1C)C#N)F)(C(F)(F)F)C)=O | C26H27F4N5O4
reactant | TFA | 0.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 0.3 ml | C(Cl)Cl | CH2Cl2
product | 5-cyano-3-methyl-pyridine-2-carboxylic acid [3-((3R,6R)-5-amino-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-amide | NC1=N[C@](CO[C@]1(C(F)(F)F)C)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1C)C#N | C21H19F4N5O2
